US08247430B2
4-[1-Methyl-1-(4-nitro-phenyl)-ethyl]-pyrimidine
A mixture of 1-dimethylamino-4-methyl-4-(4-nitro-phenyl)-pent-1-en-3-one (0.5 g, 1.9 mmol.), formamidine HCl (0.305 g, 3.8 mmol.), and NaOEt (1.29 g, 4.0 mmol) was heated in Smith synthesizer under microwave for 10 min at 150° C. The resultant mixture was diluted with H2O and EtOAc. The organic layer was dried, and the residue was used without further purification. MS: 244 (M+1) Calc'd for C13H14N3O2—244.10.

reactant | 1-dimethylamino-4-methyl-4-(4-nitro-phenyl)-pent-1-en-3-one | 1.9 mmol, 0.5 g | CN(C=CC(C(C)(C1=CC=C(C=C1)[N+](=O)[O-])C)=O)C | C14H18N2O3
reactant | formamidine HCl | 3.8 mmol, 0.305 g | Cl.C(=N)N
reactant | NaOEt | 4.0 mmol, 1.29 g | CC[O-].[Na+]
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[1-Methyl-1-(4-nitro-phenyl)-ethyl]-pyrimidine | CC(C)(C1=CC=C(C=C1)[N+](=O)[O-])C1=NC=NC=C1 | C13H13N3O2
